US07087601B2
2-(3-Methoxy-4-pyridin-2-ylphenyl)-5-methyl-1,3-benzoxazole
3-Methoxy-4-pyridin-2-yl benzoic acid (490 mg, 2.1 mmol), 2-amino-p-cresol (527 mg, 4.28 mmol) and trimethylsilyl polyphosphate (2 mL) was refluxed overnight under argon. Added water (100 mL) to the cooled reaction mixture and basified to pH 8 (solid NaHCO3). Extracted with EtOAc (3×60 mL), dried (Na2SO4) and concentrated in vacuo. The resulting yellow residue was purified by flash chromatography using a gradient elution of 1:9 EtOAc:hexanes to 1:4 EtOAc:hexanes to give the desired compound, 2-(3-methoxy-4-pyridin-2-ylphenyl)-5-methyl-1,3-benzoxazole, as a yellow solid. 1H NMR (CDCl3, 300 MHz) δ 8.74 (m, 1H), 7.98–7.16 (m, 10H), 4.03 (s, 3H), 2.51 (s, 3H). (ESI) 317 (M+H)+.

reactant | 3-Methoxy-4-pyridin-2-yl benzoic acid | 2.1 mmol, 490 mg | COC=1C=C(C(=O)O)C=CC1C1=NC=CC=C1 | C13H11NO3
reactant | 2-amino-p-cresol | 4.28 mmol, 527 mg | NC1=CC(=CC=C1O)C | C7H9NO
reactant | trimethylsilyl polyphosphate | 2 mL | C[Si](C)(C)OP(=O)=O | C3H9O3PSi
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | 100 mL | O | H2O
product | 2-(3-methoxy-4-pyridin-2-ylphenyl)-5-methyl-1,3-benzoxazole | COC=1C=C(C=CC1C1=NC=CC=C1)C=1OC2=C(N1)C=C(C=C2)C | C20H16N2O2
